US05145874
17β-[(2-(4-Aminosulfonylphenyl)ethyl)amino]-5α-androstane Hemihydrate
A solution of 3.39 g of 4-(2-aminoethyl)benzenesulfonamide in 50 ml of MeOH and 150 ml of THF was acidified with 3 ml (3.15 g) of acetic acid. Then 2.32 g of 5α-androstan-17-one was added. After a solution was obtained, 1.2 g of sodium cyanoborohydride was added. The resulting solution was stirred for 5 hours. An additional 1.2 g of sodium cyanoborohydride was added. The stirring was continued for 19 hours. The solvent was evaporated from the solution. The residue was treated with 200 ml of water, made basic with 50% NaOH solution, and extracted with CH2Cl2 (3×100 ml). The combined extracts were washed with 50 ml of brine and dried over MgSO4. Evaporation of the solvent left 3.75 g of solid. The solid was chromatographed on a 400 g column of silica gel. The column was eluted with 10% MeOH--CH2Cl2 and 100 ml fractions were collected. The fractions were assayed by silica gel TLC (1×4") (10% MeOH--CH2Cl2). Fractions 18-30 were combined and crystallized from MeOH--H2O giving 0.76 g of the title compound.

reactant | 4-(2-aminoethyl)benzenesulfonamide | 3.39 g | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | acetic acid | 3 ml, 3.15 g | C(C)(=O)O | C2H4O2
reactant | 5α-androstan-17-one | 2.32 g | C[C@@]12C(CC[C@H]1[C@@H]1CC[C@H]3CCCC[C@]3(C)[C@H]1CC2)=O | C19H30O
reactant | sodium cyanoborohydride | 1.2 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 1.2 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 17β-[(2-(4-Aminosulfonylphenyl)ethyl)amino]-5α-androstane Hemihydrate | O.NS(=O)(=O)C1=CC=C(C=C1)CCN[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CCCC[C@]3(C)[C@H]1CC2.NS(=O)(=O)C2=CC=C(C=C2)CCN[C@@H]2[C@]1(C)[C@@H](CC2)[C@@H]2CC[C@H]3CCCC[C@]3(C)[C@H]2CC1 | InChI=1S/2C27H42N2O2S.H2O/c2*1-26-16-4-3-5-20(26)8-11-22-23-12-13-25(27(23,2)17-14-24(22)26)29-18-15-19-6-9-21(10-7-19)32(28,30)31;/h2*6-7,9-10,20,22-25,29H,3-5,8,11-18H2,1-2H3,(H2,28,30,31);1H2/t2*20-,22+,23+,24+,25+,26+,27+;/m11./s1
